US07723345B2
NaH (80 mg, 60%, 3.0 mmol) was added to a solution of 2-fluorophenol (112 mg, 1 mmol) in 10 ml of anhydrous THF, the mixture was stirred for 20 minutes, 4,6-dichloro-pyrimidine (149 mg, 1 mmol) was added and then the reaction mixture was heated at 70° C. for 1 hour. After cooling, 5 ml water was added and ethyl acetate (20 ml) was used to extract the product. The organic layer was dried over sodium sulfate. The solvent was removed by rotovap to give 146 mg of 4-chloro-6-(2-fluorophenoxy)-pyrimidine, yield 65%.

reactant | NaH | 3.0 mmol, 80 mg | [H-].[Na+]
reactant | 2-fluorophenol | 1 mmol, 112 mg | FC1=C(C=CC=C1)O | C6H5FO
reactant | 4,6-dichloro-pyrimidine | 1 mmol, 149 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | water | 5 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-6-(2-fluorophenoxy)-pyrimidine | 146 mg, yield 65% | ClC1=NC=NC(=C1)OC1=C(C=CC=C1)F | C10H6ClFN2O
